US09079866B2
Step B: 3′-Fluoro-N-methyl-4′-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-[1,1′-biphenyl]-2-sulfonamide
4′-Bromo-3′-fluoro-N-methyl-[1,1′-biphenyl]-2-sulfonamide (2.0 g, 5.8 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (2.95 g, 11.6 mmol) and anhydrous KOAc (1.71 g, 17.4 mmol) and 1,4-dioxane (50 mL) were added to a flask, equipped with a stir bar and reflux condenser. The reaction mixture was sparged with argon for 10 min, before adding Pd(dppf)Cl2.CH2Cl2 (0.425 g, 0.58 mmol) was added. The flask was heated at 80° Celsius for 15 hours before cooling to rt, diluting with ethyl acetate (50 mL), filtering through Na2SO4 and concentrating to dryness. The crude product was purified by FCC to provide the title compound. 1H NMR (400 MHz, CDCl3) δ 8.19-8.12 (dd, J=7.8, 1.4, 1H), 7.87-7.78 (dd, J=7.6, 6.2, 1H), 7.64-7.59 (dd, J=7.5, 1.5, 1H), 7.58-7.51 (m, 1H), 7.35-7.27 (m, 2H), 7.19-7.11 (dd, J=9.6, 1.5, 1H), 3.57-3.45 (d, J=5.5, 1H), 2.41-2.37 (d, J=5.4, 3H), 1.39 (s, 12H).

reactant | 4′-Bromo-3′-fluoro-N-methyl-[1,1′-biphenyl]-2-sulfonamide | 5.8 mmol, 2.0 g | BrC1=C(C=C(C=C1)C=1C(=CC=CC1)S(=O)(=O)NC)F | C13H11BrFNO2S
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 11.6 mmol, 2.95 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | KOAc | 17.4 mmol, 1.71 g | CC(=O)[O-].[K+]
reactant | CH2Cl2 | 0.58 mmol, 0.425 g | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | 1,4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | 3′-Fluoro-N-methyl-4′-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-[1,1′-biphenyl]-2-sulfonamide | FC=1C=C(C=CC1B1OC(C(O1)(C)C)(C)C)C=1C(=CC=CC1)S(=O)(=O)NC | C19H23BFNO4S
